US05432284
Preparation of α-(2-Chlorophenyl)-1-piperidinebutane nitrile
A reaction vessel under a nitrogen atmosphere containing 74.0 kg of 1-(2-chloroethyl)piperidine, monohydrochloride at 10° C. was charged with 255.4 kg of sodium hydroxide solution (50% w/w). The reaction was warmed to 30° to 35° C. and 67.0 kg of 2-chlorobenzeneacetonitrile and 1.4 kg of methyltributylammonium chloride (75% w/w in water) were added. The reaction was stirred at 40° C. for 6 h and then heated to 60° C. for at least 6 h. When the reaction was completed as indicated by gas chromatographic analysis, the reaction mixture was cooled to 25° C. The reaction mixture was diluted with 335 L of water and 134 L of toluene and stirred for 30 min. After separation of the layers, the organic phase was extracted with 275 L of hydrochloric acid (2N). The acidic extract was washed twice with 50 L of toluene, basified with 30 L of sodium hydroxide solution (50% w/w) to a pH>12 and extracted twice with a total of 368 L of heptane. The combined organic phase was washed with 50 L of water and filtered through a layer of diatomaceous earth. The filtrate was dried by azeotropic distillation. The solvent was removed by distillation under reduced pressure to give 104.5 kg (90.0%) of the title product α-(2-chlorophenyl)-1-piperidinebutanenitrile as an oil. Analysis calcd for C15H19ClN2 : C,68.56; H,7.29; Cl,13.49; N,10.66. Found: C,69.64; H,7.53; Cl,12.45; N,9.75. The crude product (oil) was carried forward to the next step without purification. The purity of the title compound was estimated to be 98% based on GC Method B.

reactant | 1-(2-chloroethyl)piperidine, monohydrochloride | 74.0 kg | Cl.ClCCN1CCCCC1
reactant | sodium hydroxide | 255.4 kg | [OH-].[Na+]
reactant | 2-chlorobenzeneacetonitrile | 67.0 kg | ClC1=C(C=CC=C1)CC#N | C8H6ClN
catalyst | methyltributylammonium chloride | 1.4 kg | [Cl-].C[N+](CCCC)(CCCC)CCCC
solvent | water | 335 L | O | H2O
solvent | toluene | 134 L | C1(=CC=CC=C1)C | C7H8
product | α-(2-Chlorophenyl)-1-piperidinebutane nitrile | 104.5 kg, 90.0% | ClC1=C(C=CC=C1)C(C#N)CCN1CCCCC1 | C15H19ClN2
